US07648694B2
1-piperidino-1-cyclopentene was-synthesized as follows. In a 1-L 3-necked round-bottom flask equipped with an overhead stirrer, 20.0 g cyclopentanone was added to 120 mL hexane. 18.43 g piperidine was then added to the solution. 38.0 g anhydrous magnesium sulfate was then added to scavenge the water produced in the reaction, and 0.25 g p-toluenesulfonic acid was added as a catalyst. The mixture was then refluxed with overhead stirring over the course of 4 days. The suspension was allowed to cool, and the magnesium salts were removed by filtration. The hexane solution was then rotoevaporated at about 77° C. and 60 torr in order to remove the hexane solvent and unreacted piperidine.

reactant | 1-piperidino-1-cyclopentene | N1(CCCCC1)C1=CCCC1 | C10H17N
reactant | cyclopentanone | 20.0 g | C1(CCCC1)=O | C5H8O
reactant | piperidine | 18.43 g | N1CCCCC1 | C5H11N
reactant | magnesium sulfate | 38.0 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | water | O | H2O
solvent | hexane | 120 mL | CCCCCC | C6H14
product | p-toluenesulfonic acid | 0.25 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
